US07659296B2
E. 2-[1-(4-Benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-benzooxazole-6-carboxylic acid methyl ester
A solution of 4-[2-(4-benzyloxy-3-methyl-phenyl)-2-ethyl-butyrylamino]-3-hydroxy-benzoic acid methyl ester (2.15 g, 4.66 mmol) in toluene (50 mL) is treated with TsOH—H2O (443 mg, 2.33 mmol). The reaction is heated to 160° C. for 60 m. The reaction mixture is cooled down, and toluene is removed under vacuum. The residue is purified by column chromatography (10% EtOAc/Hex) to give the title compound as an oil (1.50 g, 72%) MS (ES) m/e: 444.2 (M+1).

reactant | 4-[2-(4-benzyloxy-3-methyl-phenyl)-2-ethyl-butyrylamino]-3-hydroxy-benzoic acid methyl ester | 4.66 mmol, 2.15 g | COC(C1=CC(=C(C=C1)NC(C(CC)(CC)C1=CC(=C(C=C1)OCC1=CC=CC=C1)C)=O)O)=O | C28H31NO5
reactant | TsOH—H2O | 2.33 mmol, 443 mg | S(=O)(=O)(C1=CC=C(C)C=C1)O.O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(4-Benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-benzooxazole-6-carboxylic acid methyl ester | 1.50 g, 72% | COC(=O)C1=CC2=C(N=C(O2)C(CC)(CC)C2=CC(=C(C=C2)OCC2=CC=CC=C2)C)C=C1 | C28H29NO4
